US06963002B2
Preparation of 3-[4,4-dimethylthiochroman-6-yl]-3-chloro-2-propene-1-al
In a 500 ml 4-necked round bottom flask fitted with a mechanical stirrer and a reflux condenser, 6-acetyl-4,4-dimethylthio-chroman (22 g) and dimethylformamide (38 ml) are added at a temperature in the range of from about 35° C. to about 95° C. under stirring. The reaction mixture is then cooled to a temperature in the range of from about −5° C. to about 0° C. Phosphorus oxychloride (17.2 g) is added to the reaction mixture dropwise over about 30 minutes. Following the addition of the phosphorous oxychloride, the reaction mixture is maintained at a temperature in the range of from about 10° C. to about 15° C. for about 8 hours to about 10 hours. After completion of the reaction as determined by TLC, the reaction mixture is added to cold water (100 ml) at a temperature of from about 0° C. to about 5° C. containing sodium acetate (25 g). The aqueous layer is extracted with dichloromethane (200 ml×3). The organic layer is washed with demineralized water (100 ml×3) until it becomes neutral.

reactant | 6-acetyl-4,4-dimethylthio-chroman | 22 g | C(C)(=O)C=1C=C2C(CCSC2=CC1)(C)C | C13H16OS
reactant | dimethylformamide | 38 ml | CN(C=O)C | C3H7NO
reactant | Phosphorus oxychloride | 17.2 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium acetate | 25 g | C(C)(=O)[O-].[Na+]
solvent | water | 100 ml | O | H2O
product | 3-[4,4-dimethylthiochroman-6-yl]-3-chloro-2-propene-1-al | CC1(CCSC2=CC=C(C=C12)C(=CC=O)Cl)C | C14H15ClOS
